US06498172B1
{3-[(4-Pyrazol-1-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester
The title compound of Step A was prepared from (3-aminomethyl-phenoxy)-acetic acid tert-butyl ester, of Preparation 20, and 4-pyrazol-1-yl-benzaldehyde, of Preparation 42, using the method described in Example 3, Step A, except no triethylamine was used. 1H NMR (400 MHz, CDCl3) δ 7.90 (m, 1H), 7.70 (m, 1H), 7.63 (d, 2H), 7.41 (d, 2H), 7.23 (m, 1H), 6.94 (m, 2H), 6.78 (dd, 1H), 6.44 (dd, 1H), 4.51 (s, 2H), 3.81 (s, 2H), 3.77 (s, 2H), 1.47 (s, 9H); MS 394 (M+1).

reactant | (3-aminomethyl-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN)=O | C13H19NO3
reactant | 4-pyrazol-1-yl-benzaldehyde | N1(N=CC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | {3-[(4-Pyrazol-1-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CNCC1=CC=C(C=C1)N1N=CC=C1)=O | C23H27N3O3
